US04161538
2-[4-(2-Hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic Acid L-Arginine Salt
To a solution of 0.87 g of 2-[4-(2-hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic acid in 10 ml of acetone were added 5 ml of water and subsequently a solution of 0.58 g of L-arginine in 10 ml of water, and the mixture was allowed to stand for 1 hour. To the reaction mixture was then added 10 ml of acetone and allowed to stand affording 1.4 g of the desired compound as colorless prisms, m.p. 193°-196° C. (decomp.).

reactant | 2-[4-(2-hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic acid | 0.87 g | ON=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C15H19NO3
reactant | L-arginine | 0.58 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 2-[4-(2-Hydroxyiminocyclopentan-1-ylmethyl)phenyl]propionic Acid L-Arginine Salt | 1.4 g | N[C@@H](CCCNC(N)=N)C(=O)O.ON=C1C(CCC1)CC1=CC=C(C=C1)C(C(=O)O)C | InChI=1S/C15H19NO3.C6H14N4O2/c1-10(15(17)18)12-7-5-11(6-8-12)9-13-3-2-4-14(13)16-19;7-4(5(11)12)2-1-3-10-6(8)9/h5-8,10,13,19H,2-4,9H2,1H3,(H,17,18);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t;4-/m.0/s1
